US04126549
Preparation and use of a 3:1 molar ratio maleic anhydride/vinyl acetate copolymer in a small test boiler
73.5 parts by weight of maleic anhydride and 21.4 parts by weight of vinyl acetate were dissolved in 240 parts by volume of xylene and heated to 70° C. 4.5 parts by weight of ditertiary butyl peroxide in 20 parts by volume of xylene were added and the reaction mixture was heated to 130° C. and maintained at this temperature for 3 hours. A brown resin precipitated, which on cooling solidified, and was easily separated from the bulk of the xylene by decantation. Yield = 87% (on weight of monomers). The number average molecular weight of the polymer by vapour phase osmometry was found to be 675.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | ditertiary butyl peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | maleic anhydride vinyl acetate | Yield = 87% | C1(\C=C/C(=O)O1)=O.C(C)(=O)OC=C | InChI=1S/C4H2O3.C4H6O2/c5-3-1-2-4(6)7-3;1-3-6-4(2)5/h1-2H;3H,1H2,2H3
